US06875765B2
To a tetrahydrofuran solution (100 mL) of 3-benzyloxy-4-nitro-benzoic acid methyl ester(10.0 g, 34.9 mmol) was added Raney Nickel (wet) (2.0 g). The reaction was pressured to approximately 50 psi at left to shake at room temperature for 5.5 h. An aliquot was removed and TLC deemed the reaction complete. The reaction was filtered through celite and then concentrated under reduced pressure to yield 4-amino-3-benzyloxy-benzoic acid methyl ester as a solid (8.7 g, 97%). 1H NMR (CDCl3) 7.58(m,2H), 7.50-7.30(m,5H), 6.70(d,1H), 5.14(s,2H), 4.84(s,3H).

reactant | 3-benzyloxy-4-nitro-benzoic acid methyl ester | 34.9 mmol, 10.0 g | COC(C1=CC(=C(C=C1)[N+](=O)[O-])OCC1=CC=CC=C1)=O | C15H13NO5
catalyst | Raney Nickel | 2.0 g | [Ni] | Ni
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 4-amino-3-benzyloxy-benzoic acid methyl ester | 8.7 g, 97% | COC(C1=CC(=C(C=C1)N)OCC1=CC=CC=C1)=O | C15H15NO3
